US05079357
(1) 6,7-Dihydro-7-p-methoxybenzylthio-5H-pyrrolo(1,2-a)-imidazole
2-Ethoxy-3-p-ethoxybenzylthio-1-pyrroline (531mg) (synthesized according to the method disclosed in Japanese Patent Laid-Open No. 56987/1985), aminoacetaldehyde dimethylacetal (315mg) and acetic acid (180mg) were dissolved in 30 ml of ethanol and refluxed under heating for one hour. The reaction solution was evaporated to dryness in vacuo, the residue was distributed between benzene and 40 ml of water containing 4 ml of 1N sodium hydroxide aqueous solution, the benzene phase was washed with water and dried over MgSO4 and thereafter the solvent was distilled off in vacuo to obtain 700mg of colorless and transparent material. The oily material was dissolved in 30 ml of benzene, 1.14 g of p-toluenesulfonic acid (hydrate) was added thereto and refluxed under heating for one hour. The reaction solution was cooled, washed with 5% aqueous solution of sodium bicarbonate and water and dried, then the solvent was distilled off. The residue was purified by column chromatography using a column packed with 20 g of silica gel (eluent: Chloroform/methanol (19:1 v/v)) to obtain the objective compound as a colorless and transparent oil. The compound was crystallized during standing in a refrigerator (m.p.=65°~73° C.; yield: 0.53 g).

reactant | 2-Ethoxy-3-p-ethoxybenzylthio-1-pyrroline | 531mg | C(C)OC1=NCCC1SCC1=CC=C(C=C1)OCC | C15H21NO2S
reactant | aminoacetaldehyde dimethylacetal | 315mg | COC(CN)OC | C4H11NO2
reactant | acetic acid | 180mg | C(C)(=O)O | C2H4O2
reactant | p-toluenesulfonic acid | 1.14 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 6,7-Dihydro-7-p-methoxybenzylthio-5H-pyrrolo(1,2-a)-imidazole | COC1=CC=C(CSC2CCN3C2=NC=C3)C=C1 | C14H16N2OS
